US08492376B2
cis/trans-4-(4-Chloro-pyridin-2-yl)-cyclohexanecarboxylic acid ethyl ester (1:6)
To a solution of cis/trans-4-(4-amino-pyridin-2-yl)-cyclohexanecarboxylic acid ethyl ester (1:9) (0.638 g, 2.57 mmol) in concentrated hydrochloric acid (11.0 ml, 128 mmol) was added in small portions sodium nitrite (4.43 g, 64.2 mmol) at 0-5° C. The reaction mixture was allowed to warm to room temperature. Copper (I) chloride (10.7 g, 108 mmol) was added in one portion. Stirring for 2 h was followed by quenching with 32% sodium hydroxide solution (9.52 ml, 103 mmol) at 0-5° C. The reaction mixture was partitioned between dichloromethane (50 ml) and water (20 ml). The layers were separated. The aqueous layer was extracted with two 100 ml-portions of dichloromethane. The combined organic layers were washed with one 25 ml-portion of water, dried over anhydrous sodium sulfate and concentrated in vacuo. Flash-chromatography with n-heptane/ethyl acetate as eluent gave the title compound (0.186 g, 27%) as colorless oil.

reactant | trans-4-(4-amino-pyridin-2-yl)-cyclohexanecarboxylic acid ethyl ester | 2.57 mmol, 0.638 g | C(C)OC(=O)[C@@H]1CC[C@H](CC1)C1=NC=CC(=C1)N | C14H20N2O2
reactant | hydrochloric acid | 128 mmol, 11.0 ml | Cl | ClH
reactant | sodium nitrite | 64.2 mmol, 4.43 g | N(=O)[O-].[Na+]
reactant | sodium hydroxide | 103 mmol, 9.52 ml | [OH-].[Na+]
catalyst | Copper (I) chloride | 108 mmol, 10.7 g | [Cu]Cl
product | trans-4-(4-Chloro-pyridin-2-yl)-cyclohexanecarboxylic acid ethyl ester | 0.186 g, 27% | C(C)OC(=O)[C@@H]1CC[C@H](CC1)C1=NC=CC(=C1)Cl | C14H18ClNO2
